US06048864
(e) Methyl 2-cyclobutyloxy-3,4-dimethoxy-6-nitrobenzoate
Cyclobutyl bromide (0.44 ml, 0.0047 mol) was added to a suspension of methyl 3,4-dimethoxy-2-hydroxy-6-nitrobenzoate (1 g, 0.0039 mol) and potassium carbonate (1.2 g, 0.0086 mol) in dimethylformamide (10 ml) and the reaction stirred at 100° C. for 4 hours. On cooling, aqueous sodium carbonate solution was added and the mixture extracted with ethyl acetate (2×40 ml). The combined organic extracts were washed with water, dried (MgSO4), filtered and evaporated under reduced pressure. The crude product was purified on silica gel eluting with diethyl ether to give the subtitle compound as a colourless oil (511 mg, 42%). Rf 0.89 (diethyl ether). MS m/z 312 (MH)+. 1H-NMR (CDCl3): δ=1.48 (1H, m), 1.76 (1H, m), 2.27 (4H, m), 2.94 (9H, m), 4.70 (1H, m), 7.51 (1H, s)

reactant | Cyclobutyl bromide | 0.0047 mol, 0.44 ml | C1(CCC1)Br | C4H7Br
reactant | methyl 3,4-dimethoxy-2-hydroxy-6-nitrobenzoate | 0.0039 mol, 1 g | COC=1C(=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-])O | C10H11NO7
reactant | potassium carbonate | 0.0086 mol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl 2-cyclobutyloxy-3,4-dimethoxy-6-nitrobenzoate | 511 mg, 42% | C1(CCC1)OC1=C(C(=O)OC)C(=CC(=C1OC)OC)[N+](=O)[O-] | C14H17NO7
